US05173485
A mixture of acetic anhydride (4.96 ml) and formic acid (2.51 ml) was stirred for 45 minutes at room temperature. The mixture was cooled to 5° C., and 1-(2-aminoethyl]-2,3-dihydro-1H-imidazo[1,2-b]pyrazole (4.0 g) was added to the mixture. The mixture was stirred for an hour under ice-cooling. The reaction mixture was evaporated and the residue was subjected to column chromatography on silica gel using a mixture of chloroform and methanol (9:1) as an eluent. Fractions containing the object compound were combined and evaporated to give 1-(2-formamidoethyl)-2,3-dihydro-1H-imidazo[1,2-b]pyrazole (2.6 g) as crystals.

reactant | acetic anhydride | 4.96 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(2-aminoethyl]-2,3-dihydro-1H-imidazo[1,2-b]pyrazole | 4.0 g | NCCN1CCN2N=CC=C21 | C7H12N4
solvent | formic acid | 2.51 ml | C(=O)O | CH2O2
product | 1-(2-formamidoethyl)-2,3-dihydro-1H-imidazo[1,2-b]pyrazole | 2.6 g | C(=O)NCCN1CCN2N=CC=C21 | C8H12N4O
